US09376449B2
To a mixture of 3-(3-chloro-2-hydroxy-5-nitrophenyl)propane-1,2-diol (18.7 g), tetrahydrofuran (300 mL), and water (150 mL) was added sodium periodate (19.3 g) under ice-cooling, followed by stirring for 3 hours under ice-cooling. To this mixture was carefully added sodium borohydride (5.70 g) under ice cooling while maintaining the internal temperature at 10° C. or lower, followed by stirring for 1 hour. To this mixture was added sodium borohydride (2.85 g), followed by stirring for 30 minutes, and then acidified under ice cooling by the slow addition of 1 M hydrochloric acid, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, then the insoluble materials were separated by filtration, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=100:0 to 60:40) to obtain 2-chloro-6-(2-hydroxyethyl)-4-nitrophenol (11.5 g) as a yellow solid.

reactant | 3-(3-chloro-2-hydroxy-5-nitrophenyl)propane-1,2-diol | 18.7 g | ClC=1C(=C(C=C(C1)[N+](=O)[O-])CC(CO)O)O | C9H10ClNO5
reactant | sodium periodate | 19.3 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium borohydride | 5.70 g | [BH4-].[Na+]
reactant | sodium borohydride | 2.85 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | water | 150 mL | O | H2O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 2-chloro-6-(2-hydroxyethyl)-4-nitrophenol | 11.5 g | ClC1=C(C(=CC(=C1)[N+](=O)[O-])CCO)O | C8H8ClNO4
